US07799822B2
Prepared using general procedure 61: To a yellow solution of di-tert-butyl azo-dicarboxylate (2.72 g, 11.9 mmol) in THF (14 mL) at 0° C. under N2 was slowly added tributylphosphine (3.0 mL, 11.9 mmol), The resulting colorless solution of the Mitsunobu reagent was stirred at RT for 10 min, and then added to a solution of (S)-2-(4-chloro-5-fluoroindolin-1-yl)-4-hydroxy-N-phenylbutanamide (1.03 g, 7.4 mmol) in THF (14 mL) at 0° C. under N2. The reaction mixture was stirred for 10 min. at this temperature, and quenched by addition of a saturated aqueous NaHCO3 solution. EtOAc was added, the phases were separated, and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over MgSO4 and concentrated. Purification via silica gel chromatography using 0-50 EtOAc in hexane gave (S)-3-(4-chloro-5-fluoroindolin-1-yl)-1-phenylpyrrolidin-2-one as a white solid (2.1 g, 82%). 1H NMR (400 MHz, DMSO-d6) δ 7.71-7.68 (m, 2H), 7.42-7.38 (m, 2H), 7.17 (t, J=7.4 Hz, 1H), 7.04-6.99 (m, 1H), 6.49 (dd, J=3.6, 8.7 Hz, 1H), 4.77 (dd, J=8.8, 10.6 Hz, 1H), 3.85-3.81 (m, 2H), 3.62 (dd, J=2.7, 8.9 Hz, 1H), 3.40 (dd, J=8.6, 17.9 Hz, 1H), 3.05-2.95 (m, 2H), 2.40-2.31 (m, 1H), 2.21-2.10 (m, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=331.5; tR=1.90 min.

reactant | di-tert-butyl azo-dicarboxylate | 11.9 mmol, 2.72 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | tributylphosphine | 11.9 mmol, 3.0 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (S)-2-(4-chloro-5-fluoroindolin-1-yl)-4-hydroxy-N-phenylbutanamide | 7.4 mmol, 1.03 g | ClC1=C2CCN(C2=CC=C1F)[C@H](C(=O)NC1=CC=CC=C1)CCO | C18H18ClFN2O2
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | (S)-3-(4-chloro-5-fluoroindolin-1-yl)-1-phenylpyrrolidin-2-one | 2.1 g, 82% | ClC1=C2CCN(C2=CC=C1F)[C@@H]1C(N(CC1)C1=CC=CC=C1)=O | C18H16ClFN2O
